US05075445
To a suspension of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.31 g, 1.0 mmol) in ethanol (1.5 ml) was added sodium ethoxide (1 M in ethanol, 1.5 ml) and the mixture was stirred at 60° for 1 hour. The resulting solution was allowed to cool, hydrochloric acid (5 M, 0.3 ml) and water (0.7 ml) were added and the solution was stirred for 1 hour at room temperature. The solution was neutralised by addition of aqueous sodium bicarbonate and the solvent was removed. The residue was extracted with chloroform-ethanol (2:1), the solution was filtered and the solvent removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (6:1) to afford 2-amino-6-ethoxy-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine (0.24 g, 85%), m.p. 150°-152° C.; λmax (H2O) 213 (24,300), 249 (7,360), and 280 (9,270) nm; νmax (KBr) 3330, 3210, 2900, 1650, 1610, 1580 cm-1 ; δH [(CD3)2SO] 1.3-1.6 (4 H, m, 3'-H and CH3), 1.73 (2 H, q, J 7 Hz, 2'-H), 3.2-3.6 (4 H, AB part of ABX, 2×4'-H), 4.04 (2 H, t, J 7 Hz, 1'-H), 4.3-4.55 (4 H, m, 2 H D2O exchangeable, 2×OH; D2O exchange leaves 2 H, q, J 7 Hz, 6-OCH2), 6.30 (2 H, s, D2O exchangeable, 2-NH2), and 7.84 (1 H, s, 8-H); (Found: C, 50.91; H, 7.00; N, 24.89%; C12H19N5O3 requires C, 51.23; H, 6.81; N, 24.90%).

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 1.0 mmol, 0.31 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | sodium ethoxide | 1 M, 1.5 ml | [O-]CC.[Na+]
reactant | hydrochloric acid | 5 M, 0.3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | 0.7 ml | O | H2O
product | 2-amino-6-ethoxy-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine | 0.24 g, 85% | NC1=NC(=C2N=CN(C2=N1)CCC(CO)CO)OCC | C12H19N5O3
